US07713969B2
5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline-1-carboxylic acid (37.5 g, 0.186 mol), copper chromite (13.5 g, 43 mmol) and quinoline (180 ml) were heated with stirring to 185° C. for 2 hours. The mixture was cooled, diluted with dichloromethane (1 L) and filtered over hyflo. The filtrate was washed with 2 M hydrochloric acid (2×600 ml) and twice with 2 M sodium hydroxide (150 ml) before being evaporated to dryness. The residue was purified by silica gel chromatography, eluting with a ethyl acetate/hexanes (1:6) to afford 5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline (21 g, 72%) as a pale yellow solid. 1H NMR (CDCl3) 400 MHz δ: 7.44(dd, 1H, J=0.8 and 7.6 Hz), 7.07(d, 1H, J=3.2 Hz), 7.01(t, 1H, J=7.2 Hz), 6.9 (dd, 1H, J=0.8 and 6.8 Hz), 6.43(d, 1H, J=3.2 Hz), 4.16(t, 2H, J=6 Hz), 2.99(t, 2H, J=6.4 Hz), 2.24(m, 2H).

reactant | 5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline-1-carboxylic acid | 0.186 mol, 37.5 g | C1(=CN2CCCC3=CC=CC1=C23)C(=O)O | C12H11NO2
reactant | quinoline | 180 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | dichloromethane | 1 L | ClCCl | CH2Cl2
catalyst | copper chromite | 43 mmol, 13.5 g | [Cr](=O)([O-])[O-].[Cu+2]
product | 5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline | 21 g, 72% | C1=CN2CCCC3=CC=CC1=C23 | C11H11N
